US07910740B2
[5-(3-Chloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
A suspension of 78.7 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea and of 71.6 mg (0.33 mmol) of 3-chloro-4-(3-chlorophenyl)-2-butanone in ethanol (3 ml) was heated over night to reflux to yield a yellow solution. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified on silica gel with methylene chloride/methanol 19/1 yielding 55 mg (43%) [5-(3-chloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a yellow solid. MS ISP (m/e): 425.1/427.2 (100/43) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.16 (s, 1H), 7.64 (s, 1H), 7.53 (s, 1H), 7.35-7.19 (m, 6H), 7.01 (s, 1H), 4.01 (s, 2H), 3.78 (s, 3H), 2.24 (s, 3H), 2.14 (s, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 78.7 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 3-chloro-4-(3-chlorophenyl)-2-butanone | 0.33 mmol, 71.6 mg | ClC(C(C)=O)CC1=CC(=CC=C1)Cl | C10H10Cl2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | [5-(3-Chloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC=1C=C(CC2=C(N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C)C=CC1 | C22H21ClN4OS
